US07598257B2
The MCPBA (2.37 g, 10.6 mmol) was added to a solution of 1-bromo-3-(ethylthio)benzene (1.00 g, 4.80 mmol) in DCM (10 ml, 156 mmol) cooled to 0° C. The reaction was stirred for 1 h and then was diluted with water and extracted with ethyl acetate three times. The combined organic layers were dried with magnesium sulfate, filtered, and concentrated in vacuo. The resulting crude residue was purified by flash column chromatography with a hexane:ethyl acetate gradient to give 1-bromo-3-(ethylsulfonyl)benzene as a colorless oil 1.1 gm 92%, 1H NMR (300 MHz, CDCl3): δ8.09 (m, 1H), 7.85 (d, 1H), 7.78 (d, 1H) 7.45 (t, 1H), 3.14 (q, 2H), 1.25 (t, 3H).

reactant | MCPBA | 10.6 mmol, 2.37 g | C1=CC(=CC(=C1)Cl)C(=O)OO | C7H5ClO3
reactant | 1-bromo-3-(ethylthio)benzene | 4.80 mmol, 1.00 g | BrC1=CC(=CC=C1)SCC | C8H9BrS
reactant | DCM | 156 mmol, 10 ml | C(Cl)Cl | CH2Cl2
reactant | water | O | H2O
product | 1-bromo-3-(ethylsulfonyl)benzene | 1.1 gm, 92% | BrC1=CC(=CC=C1)S(=O)(=O)CC | C8H9BrO2S
